US07192978B2
Preparation of (3R)-1-(3-phenoxypropyl)pyrrolidin-3-ol
Prepared as in Intermediate I-15 from (3R)pyrrolidin-3-ol (commercially available) and (3-bromopropoxy)benzene. The yield was 2.26 g (71.3%) of the title compound.

reactant | (3R)pyrrolidin-3-ol | N1C[C@@H](CC1)O | C4H9NO
reactant | (3-bromopropoxy)benzene | BrCCCOC1=CC=CC=C1 | C9H11BrO
product | (3R)-1-(3-phenoxypropyl)pyrrolidin-3-ol | yield was 2.26 g, 71.3% | O(C1=CC=CC=C1)CCCN1C[C@@H](CC1)O | C13H19NO2
